US07671043B2
11A: 4-Cyano-3-methyl-benzoic acid methyl ester
Zinc cyamide (6.2 g, 52 mmol) and tetrakis(triphenylphosphine) palladium (0) (4 g, 3 mmol) was added to a solution of 4-bromo-3-methyl-benzoic acid methyl ester (20 g, 87 mmol) and DMF (100 mL) and stirred for 4 hours at 120° C. The reaction mixture was cooled to room temperature, diluted with EtOAc (700 mL), washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. Purification by flash chromatography (silica, 1:3 EtOAc:hexanes) provided the title compound (12.3 g, 39.8% yield) as a solid.

reactant | 4-bromo-3-methyl-benzoic acid methyl ester | 87 mmol, 20 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 700 mL | CCOC(=O)C | C4H8O2
catalyst | Zinc | 52 mmol, 6.2 g | [Zn] | Zn
catalyst | tetrakis(triphenylphosphine) palladium (0) | 3 mmol, 4 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Cyano-3-methyl-benzoic acid methyl ester | 12.3 g, 39.8% yield | COC(C1=CC(=C(C=C1)C#N)C)=O | C10H9NO2
